US05554594
3-(5-(S)-(3-Methoxycarbonylaminopropyl)-2,4-dioxoimidazolidin-3-yl)-benzoic acid
314 mg (1 mmol) of 3-(5-(S)-(3-aminopropyl)-2,4-dioxoimidazolidin-3-yl)-benzoic acid hydrochloride are dissolved in 5 ml of methanol and 5 ml of water. After addition of 130 mg (1.38 mmol) of methyl chloroformate, the mixture is adjusted to pH 7 at 10° C. with 0.1 N sodium hydroxide solution. The mixture is allowed to warm to room temperature, and is stirred for 4 h, acidified to pH 3 with potassium hydrogen sulphate solution and concentrated. The residue is stirred with water, filtered off with suction and dried.

reactant | 3-(5-(S)-(3-aminopropyl)-2,4-dioxoimidazolidin-3-yl)-benzoic acid hydrochloride | 1 mmol, 314 mg | Cl.NCCC[C@H]1C(N(C(N1)=O)C=1C=C(C(=O)O)C=CC1)=O
reactant | methyl chloroformate | 1.38 mmol, 130 mg | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-(5-(S)-(3-Methoxycarbonylaminopropyl)-2,4-dioxoimidazolidin-3-yl)-benzoic acid | COC(=O)NCCC[C@H]1C(N(C(N1)=O)C=1C=C(C(=O)O)C=CC1)=O | C15H17N3O6
